US05173484
a) Ethyl 4-ethylaminomethyl-4-hydroxypiperidine-1-carboxylate
5.7 g (30.8 mmol) of ethyl 6-aza-1-oxaspiro[2,5]octane-6-carboxylate are added dropwise to 30 ml of ethylamine solution (50% in water) and the mixture is stirred overnight at room temperature. It is then concentrated and distilled.

reactant | ethyl 6-aza-1-oxaspiro[2,5]octane-6-carboxylate | 30.8 mmol, 5.7 g | O1CC12CCN(CC2)C(=O)OCC | C9H15NO3
reactant | ethylamine | 30 ml | C(C)N | C2H7N
product | Ethyl 4-ethylaminomethyl-4-hydroxypiperidine-1-carboxylate | C(C)NCC1(CCN(CC1)C(=O)OCC)O | C11H22N2O3
